US05674909
Preparation of 5-(2-aminoethyl)-1,3-benzothiazol-2(3H)-one hydrochloride (Intermediate 20)
5-(2-trifluoroacetylaminoethyl)-1,3-benzothiazol-2(3H)-one (1.7 g) was dissolved in ethanol (17 ml) and HCl 6N (17 ml).

reactant | 5-(2-trifluoroacetylaminoethyl)-1,3-benzothiazol-2(3H)-one | 1.7 g | FC(C(=O)NCCC=1C=CC2=C(NC(S2)=O)C1)(F)F | C11H9F3N2O2S
reactant | HCl | 6N, 17 ml | Cl | ClH
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | 5-(2-aminoethyl)-1,3-benzothiazol-2(3H)-one hydrochloride | Cl.NCCC=1C=CC2=C(NC(S2)=O)C1 | InChI=1S/C9H10N2OS.ClH/c10-4-3-6-1-2-8-7(5-6)11-9(12)13-8;/h1-2,5H,3-4,10H2,(H,11,12);1H
